US09340506B2
Ethyl 2-(4-benzyloxyphenyl)acetate
A solution of ethyl-4-hydroxy phenyl acetate (10 g, 55.49 mmol) in 50 mL of dry acetonitrile was added in a drop wise manner to a suspension of cesium carbonate (36 g, 110.98 mmol) in 50 mL of dry acetonitrile. Reaction mixture was allowed to stir at rt for 10 min then benzyl bromide (7.25 mL, 61.03 mmol) was added drop wise and continued to stir overnight at rt. Reaction was quenched with water and solid was filtered through Buchner funnel, filtrate obtained was diluted with ethyl acetate, and organic layer was washed with water, brine and dried over anhydrous sodium sulphate. Solvent was removed under reduced pressure to obtain crude product which was purified using column chromatography using 5-10% ethyl acetate in hexane to afford 8.0 g of liquid.

reactant | cesium carbonate | 110.98 mmol, 36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 61.03 mmol, 7.25 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Ethyl 2-(4-benzyloxyphenyl)acetate | 8.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)OCC | C17H18O3
